US07977344B2
8-Bromo-2-[(2,2-dimethylpentyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine
To 2-[(2,2-dimethylpentyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (372 mg) in dry chloroform (4.05 mL) at 0° C. was added NBS (209 mg) in a single portion. The reaction was warmed to room temperature and was stirred for 5 h. The mixture was taken up into DCM (20 mL) and washed with water (30 mL). The organics were separated and dried using a hydrophobic frit then concentrated in vacuo to afford the title compound as a green/brown viscous foam (475 mg).

reactant | 2-[(2,2-dimethylpentyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 372 mg | CC(COC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N)(CCC)C | C17H27N5O2
reactant | NBS | 209 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | chloroform | 4.05 mL | C(Cl)(Cl)Cl | CHCl3
product | 8-Bromo-2-[(2,2-dimethylpentyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 475 mg | BrC=1N(C2=NC(=NC(=C2N1)N)OCC(CCC)(C)C)C1OCCCC1 | C17H26BrN5O2
